US04946787
DOTMA/DOPC vesicles were prepared by dissolving 10 mg DOTMA and 10 mg DOPC in chloroform and removing the solvent by drying under a stream of nitrogen gas. This dried film was placed under vacuum overnight to remove traces of solvent. The film was then suspended in 1 ml water with vigorous shaking and sonicated in a bath type sonicator for 30 minutes until clear producing DOTMA/DOPC SUV's at a concentration of 20 mg/ml total lipid.

reactant | DOTMA | 10 mg | CCCCCCCC/C=C\CCCCCCCCOCC(C[N+](C)(C)C)OCCCCCCCC/C=C\CCCCCCCC.[Cl-]
reactant | DOPC | 10 mg | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | C44H84NO8P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | DOTMA DOPC | CCCCCCCC/C=C\CCCCCCCCOCC(C[N+](C)(C)C)OCCCCCCCC/C=C\CCCCCCCC.[Cl-].CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | InChI=1S/C44H84NO8P.C42H84NO2.ClH/c1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-43(46)50-40-42(41-52-54(48,49)51-39-38-45(3,4)5)53-44(47)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38-44-41-42(40-43(3,4)5)45-39-37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;/h20-23,42H,6-19,24-41H2,1-5H3;20-23,42H,6-19,24-41H2,1-5H3;1H/q;+1;/p-1/b2*22-20-,23-21-;/t42-;;/m1../s1
